US08258306B2
To a solution of Boc-4-piperidone (4.0 g, 20 mmol), aniline (1.9 ml, 20 mmol), and acetic acid, glacial (1.4 ml, 24 mmol) in dichloroethane (60 mL) was added sodium triacetoxyborohydride (6.0 g, 28 mmol) portionwise at RT. The suspension was stirred at RT for 24 h, diluted with water and extracted with dichloromethane. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by ISCO using 0-30% EtOAc in Hexanes to give tert-butyl 4-(phenylamino)piperidine-1-carboxylate (2.5 g, 45% yield).

reactant | Boc-4-piperidone | 20 mmol, 4.0 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | aniline | 20 mmol, 1.9 ml | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 28 mmol, 6.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 60 mL | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | tert-butyl 4-(phenylamino)piperidine-1-carboxylate | 2.5 g, 45% yield | C1(=CC=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
